US06191124B1
A solution of 2,3-Dimethylimidazo[2,1-b]thiazole-5-carboxylic acid ethyl ester (Formula A-4) (1.68 g) in THF (50 mL) at 0° was treated with LiAlH4 (0.38 g) and reacted at 25° for 1.5 hours. Excess reagent was quenched by sequential addition of water and 15% sodium hydroxide. The resulting mixture was diluted with THF (100 mL), filtered, and the filtrate was evaporated to a residue of crude 2,3-Dimethylimidazo[2,1-b]thiazole-5-methanol (Formula A-5) (1.04 g). Crystallization from isopropanol solution gave pure 2,3-Dimethylimidazo[2,1-b]thiazole-5-methanol (Formula A-5), m.p. 166-167°.

reactant | 2,3-Dimethylimidazo[2,1-b]thiazole-5-carboxylic acid ethyl ester | 1.68 g | C(C)OC(=O)C1=CN=C2SC(=C(N21)C)C | C10H12N2O2S
reactant | LiAlH4 | 0.38 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2,3-Dimethylimidazo[2,1-b]thiazole-5-methanol | CC1=C(N2C(S1)=NC=C2CO)C | C8H10N2OS
